Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9].[O:10][H:11],5.9558794420500005
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.54394630136
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.68493274215
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.71285546921
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-5.72330454892
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],4.24794732578
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.84977746843
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:1],3.86178674363
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[C:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[O:7],3.06047007115
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9])[C:11]([H:12])([H:13])[H:14],4.55786448095
[C:7]([H:8])[H:9].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-3.63841132151
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3],1.20380469043
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]=[O:3],0.75611063405
[O:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.81685375878
[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9],-2.77198071024
[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[H:7],-0.1449520433299999
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8].[H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9],-5.619550383069999
[H:11].[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.61223285417
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:8]([H:9])[H:10])[O:11][H:12].[H:7]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12],-1.11702968239
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.2120634716100005
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3],4.26623981007
[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11],0.56025663029
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.49951348349
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@:8]1([H:9])[C:10][O:11]1>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]=[O:11],-2.70872973616
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-3.8087497953800007
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],0.943387352556
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.24918025682
[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-7.36818398865
[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.75283047775
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[O:7].[H:8],1.03317393541
